US05264577
Step A: Preparation of Ethyl α-[(diphenylmethylene)amino]-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetate
Ethyl N-(diphenylmethylene)glycinate (12 g, 45 mmol) and 5-chlorodibenzosuberane (12.32 g, 54 mmol) are dissolved in 250 mL of dichloromethane, tetrabutylammonium bromide (17.6 g, 55 mmol) and 47 mL of 50% sodium hydroxide solution are added and the mixture is mechanically stirred at room temperature for 4 hours. Then it is diluted with 75 mL of dichloromethane and water and the layers are separated. The organic layer is washed with water, dried over magnesium sulfate, filtered, and stripped under vacuum to give a brown orange oil. The oil is taken up in 250 mL of diethyl ether and 100 mL of water. The diethyl ether solution is additionally washed with water, dried (magnesium sulfate), and stripped to give a clear red-orange sticky oil residue (~21 g) which is used in the next step without purification.

reactant | Ethyl N-(diphenylmethylene)glycinate | 45 mmol, 12 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | 5-chlorodibenzosuberane | 54 mmol, 12.32 g | C1CC2=CC=CC=C2C(C3=CC=CC=C31)Cl | C15H13Cl
reactant | sodium hydroxide | 47 mL | [OH-].[Na+]
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 55 mmol, 17.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
product | Ethyl α-[(diphenylmethylene)amino]-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetate | ~21 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C32H29NO2
